US06956050B2
STEP 3. 2-chloro-N-{([2-{4-[4-(4-cyanophenyl)-2-ethyl-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide
The title compound was prepared according to the procedure described in step 2 of Example 18 from phenyl 2-{4-[4-(4-cyanophenyl)-2-ethyl-1H-imidazol-1-yl]phenyl}ethylcarbamate and 2-chlorobenzenesulfonamide. MS (ESI) m/z 534 [M+H]+, 532 [M−H]−, 1H-NMR (CDCl3)δ1.26 (3H, t, J=7.5 Hz), 2.70 (2H, q, J=7.7 Hz), 2.86 (2H, t, J=7.1 Hz), 3.47-3.55 (2H, m), 6.58 (1H, br), 7.23-7.31 (3H, m), 7.36 (1H, s), 7.41-7.47 (1H, m), 7.57-7.66 (4H, m), 7.89 (2H, d, J=8.6 Hz),8.01 (1H, d, J=8.4 Hz)

reactant | phenyl 2-{4-[4-(4-cyanophenyl)-2-ethyl-1H-imidazol-1-yl]phenyl}ethylcarbamate | C(#N)C1=CC=C(C=C1)C=1N=C(N(C1)C1=CC=C(C=C1)CCNC(OC1=CC=CC=C1)=O)CC | C27H24N4O2
reactant | 2-chlorobenzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
product | 2-chloro-N-{([2-{4-[4-(4-cyanophenyl)-2-ethyl-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)NC(=O)NCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(C=C1)C#N)CC | C27H24ClN5O3S
